### PR TITLE
[Merged by Bors] - chore: ofNat lemmas for Complex.normSq and abs

### PR DESCRIPTION
**Pull request by timotree3**
Having `_ofNat` lemmas is important for confluence given that for both `normSq` and `abs`, the `_ofReal` lemma is `@[simp]` and so is `ofReal_ofNat`. We already have lemmas for 0 and 1 from the bundled classes for both functions, so I'm only adding lemmas for the `AtLeastTwo` case here.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Complex/Basic.lean [hunk 1]
```diff
@@ -990,12 +995,13 @@ nonrec theorem abs_of_nonneg {r : ℝ} (h : 0 ≤ r) : Complex.abs r = r :=
...
 
-theorem abs_of_nat (n : ℕ) : Complex.abs n = n :=
-  calc
-    Complex.abs n = Complex.abs (n : ℝ) := by rw [ofReal_nat_cast]
-    _ = _ := Complex.abs_of_nonneg (Nat.cast_nonneg n)
+theorem abs_of_nat (n : ℕ) : Complex.abs n = n := Complex.abs_of_nonneg (Nat.cast_nonneg n)
 #align complex.abs_of_nat Complex.abs_of_nat
 
+@[simp]
+theorem abs_ofNat (n : ℕ) [n.AtLeastTwo] : Complex.abs (no_index (OfNat.ofNat n : ℂ)) = n :=
```
Comment (eric-wieser) [inline Mathlib/Data/Complex/Basic.lean:1002]:
```suggestion
theorem abs_ofNat (n : ℕ) [n.AtLeastTwo] : Complex.abs (no_index (OfNat.ofNat n : ℂ)) = OfNat.ofNat n :=
```

File: Mathlib/Data/Complex/Basic.lean [hunk 2]
```diff
@@ -638,6 +638,11 @@ theorem normSq_one : normSq 1 = 1 :=
   normSq.map_one
 #align complex.norm_sq_one Complex.normSq_one
 
+@[simp]
+theorem normSq_ofNat (n : ℕ) [n.AtLeastTwo] :
+    normSq (no_index (OfNat.ofNat n : ℂ)) = OfNat.ofNat n * OfNat.ofNat n := by
```
Comment (eric-wieser) [inline Mathlib/Data/Complex/Basic.lean:643]: I think this might be nicer as
```suggestion
    normSq (no_index (OfNat.ofNat n : ℂ)) = OfNat.ofNat n ^ 2 := by
```

File: Mathlib/Data/Complex/Basic.lean [hunk 3]
```diff
@@ -990,12 +995,13 @@ nonrec theorem abs_of_nonneg {r : ℝ} (h : 0 ≤ r) : Complex.abs r = r :=
   (Complex.abs_ofReal _).trans (abs_of_nonneg h)
 #align complex.abs_of_nonneg Complex.abs_of_nonneg
 
-theorem abs_of_nat (n : ℕ) : Complex.abs n = n :=
-  calc
-    Complex.abs n = Complex.abs (n : ℝ) := by rw [ofReal_nat_cast]
-    _ = _ := Complex.abs_of_nonneg (Nat.cast_nonneg n)
+theorem abs_of_nat (n : ℕ) : Complex.abs n = n := Complex.abs_of_nonneg (Nat.cast_nonneg n)
```
Comment (eric-wieser) [inline Mathlib/Data/Complex/Basic.lean:998]: Can you rename this to
```suggestion
theorem abs_natCast (n : ℕ) : Complex.abs n = n := Complex.abs_of_nonneg (Nat.cast_nonneg n)
```

File: Mathlib/Data/Complex/Basic.lean (hunk 2 above)
Comment (timotree3) [reply Mathlib/Data/Complex/Basic.lean:643]: This would require changing the rhs of at least `normSq_ofReal` to preserve confluence:
```lean
example : Complex.normSq (5 : ℝ) = 5 * 5 := by
  simp only [normSq_ofReal]

example : Complex.normSq (5 : ℝ) = 5 ^ 2 := by
  simp only [ofReal_ofNat, normSq_ofNat]
```

Comment (eric-wieser) [reply Mathlib/Data/Complex/Basic.lean:643]: Fair enough

**Review by eric-wieser — APPROVED** [review]
bors d+

Just the long line to fix.

File: Mathlib/Data/Complex/Basic.lean [hunk 4]
```diff
@@ -990,11 +995,12 @@ nonrec theorem abs_of_nonneg {r : ℝ} (h : 0 ≤ r) : Complex.abs r = r :=
...
-theorem abs_of_nat (n : ℕ) : Complex.abs n = n :=
-  calc
-    Complex.abs n = Complex.abs (n : ℝ) := by rw [ofReal_nat_cast]
-    _ = _ := Complex.abs_of_nonneg (Nat.cast_nonneg n)
-#align complex.abs_of_nat Complex.abs_of_nat
+theorem abs_natCast (n : ℕ) : Complex.abs n = n := Complex.abs_of_nonneg (Nat.cast_nonneg n)
+#align complex.abs_of_nat Complex.abs_natCast
+
+@[simp]
+theorem abs_ofNat (n : ℕ) [n.AtLeastTwo] : Complex.abs (no_index (OfNat.ofNat n : ℂ)) = OfNat.ofNat n :=
```
Comment (eric-wieser) [inline Mathlib/Data/Complex/Basic.lean:1002]:
```suggestion
theorem abs_ofNat (n : ℕ) [n.AtLeastTwo] :
    Complex.abs (no_index (OfNat.ofNat n : ℂ)) = OfNat.ofNat n :=
```

**Comment by eric-wieser** [comment]
bors r-

bors d+

**Comment by timotree3** [comment]
bors r+

Sorry for causing bors to repeatedly retry. I thought it was safe to `r+` before CI passed because I assumed bors would cancel if CI failed.
